US08138173B2
Acetyl chloride (0.7 mL, 9.8 mmol), acetic acid (1 mL), and ethylhydrazine (1.5 g, 9.8 mmol) were added sequentially to a suspension of methyl (1H-indol-3-yl)glyoxalate (1.0 g, 4.9 mmol) in ethanol (25 mL). The reaction mixture was heated at reflux for 18 hours. The reaction mixture was cooled to ambient temperature and then concentrated under reduced pressure. The residue was combined with acetonitrile. A pink solid was isolated by filtration and then purified by automated flash chromatography (Biotage, eluted with a gradient of 0-30% CMA in chloroform) to provide a white solid. This material was recrystallized from acetonitrile to provide 360 mg of 2-ethyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as white crystals, mp>250° C. MS (APCI) m/z 214 (M+H)+; Anal. calcd for C12H11N3O: C, 67.59; H, 5.20; N, 19.71. Found: C, 67.52; H, 5.14; N, 19.90.

reactant | Acetyl chloride | 9.8 mmol, 0.7 mL | C(C)(=O)Cl | C2H3ClO
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | ethylhydrazine | 9.8 mmol, 1.5 g | C(C)NN | C2H8N2
reactant | methyl (1H-indol-3-yl)glyoxalate | 4.9 mmol, 1.0 g | N1C=C(C2=CC=CC=C12)C(C(=O)OC)=O | C11H9NO3
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-ethyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 360 mg | C(C)N1N=C2C(NC=3C=CC=CC3C2=C1)=O | C12H11N3O
